US08563575B2
Benzyl chloride (1.527 mL) was added to a solution of 4-bromo-2-methyl-1H-benzimidazole (1.40 g) and sodium hydride (0.531 g) in DMF (10 ml) at 0° C. The mixture was stirred at room temperature under a dry atmosphere for 1 h. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 5%-50% EtOAc in hexane) to give 1-benzyl-4-bromo-2-methyl-1H-benzo[d]imidazole (1.88 g) as tan oil. The mixture of 1-benzyl-4-bromo-2-methyl-1H-benzo[d]imidazole (496 mg), 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (700 mg), Pd(Ph3P)4 (87 mg), sodium carbonate (476 mg) and THF (18 mL)-water (0.90 mL) was heated at 100° C. for 1 h under microwave irradiation. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 10%-50% EtOAc in hexane) to give 3-[4-(1-benzyl-2-methyl-1H-benzimidazol-4-yl)phenyl]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (450 mg) as white crystals.

reactant | Benzyl chloride | 1.527 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-bromo-2-methyl-1H-benzimidazole | 1.40 g | BrC1=CC=CC=2NC(=NC21)C | C8H7BrN2
reactant | sodium hydride | 0.531 g | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-benzyl-4-bromo-2-methyl-1H-benzo[d]imidazole | 1.88 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2Br)C | C15H13BrN2
